US04319052
Into a reactor provided with a stirrer, thermometer and a heating bath there are charged 220 g (1 g.-mol) of 2,6-ditert.butyl-4-methylphenol, 2.2. g of concentrated sulfuric acid and the mixture is heated to the temperature of 120° C. While maintaining the temperature at 120° C., 94 g (1.24 g-mol) of methylal are fed into the reactor for 1.5 hour. On completion of the reaction, the catalyst is separated, volatile products are distilled under vacuum to give 143.0 g of 2,2'-methylene-bis(4-methyl-6-tert.butylphenol) which corresponds to 97.8% of theory as calculated for the reacted 2,6-ditert.butyl-4-methylphenol (conversion degree of the latter is 86.0%).

reactant | 2,6-ditert.butyl-4-methylphenol | 220 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methylal | 94 g | COCOC | C3H8O2
product | 2,2'-methylene-bis(4-methyl-6-tert.butylphenol) | 143.0 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
